* E:\Git\Group Project\HAYES\Sims\Draft5.asc
V3 1.65v 0 1.65
V4 3.3v 0 3.3
XU2 N008 N005 3.3v 0 N002 ADA4891
R2 N001 N007 1k
R3 N008 N001 10k
C1 N008 1.65v 39p
C2 N002 N001 33p
R4 N002 N005 10k
R5 N005 1.65v 1k
XU1 N009 N006 3.3v 0 N004 ADA4891
R6 N004 N006 10k
R7 N006 1.65v 1k
C3 N003 N002 56p
C4 N009 N003 56p
R1 N009 1.65v 12k
R8 N004 N003 68k
V1 N007 1.65v SINE(0 ac)
.ac dec 100 1k 100Meg
.lib ADI.lib
.backanno
.end
