* E:\Git\Group Project\HAYES\Sims\Draft5.asc
V3 1.65v 0 1.65
V4 3.3v 0 3.3
XU2 N009 N005 3.3v 0 N002 ADA4891-1
R2 N001 N008 1k
R3 N009 N001 10k
C1 N009 1.65v 33p
C2 N002 N001 33p
R4 N002 N005 10k
R5 N005 1.65v 1k
XU1 N010 N006 3.3v 0 N004 ADA4891-1
R6 N004 N006 10k
R7 N006 1.65v 1k
C3 N003 N002 10p
C4 N010 N003 10p
R1 N010 1.65v 12k
R8 N004 N003 68k
V1 N008 0 SINE(1.65 0.01 1Meg)
R10 1.65v N008 1Meg
R9 N007 1.65v 10k
C5 N007 N004 33p
;ac dec 100 1k 100Meg
;op dec 100 1k 100Meg
.tran 0 10u 0 1u
.lib ADA4891-1.lib
.backanno
.end
